US04959377
3-Nitro-4-phenoxypyridine
To phenol (6.5 g) in 20 ml DMF at room temperature was added K2CO3 (20 g) and this mixture stirred for 15 minutes at room temperature. Then 4-chloro-3-nitropyridine (10.0 g) in 60 ml DMF was added dropwise and the mixture stirred for two hours at ambient temperature. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and dried (sat. NaCl, anhy. MgSO4).

reactant | phenol | 6.5 g | C1(=CC=CC=C1)O | C6H6O
reactant | K2CO3 | 20 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chloro-3-nitropyridine | 10.0 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 3-Nitro-4-phenoxypyridine | [N+](=O)([O-])C=1C=NC=CC1OC1=CC=CC=C1 | C11H8N2O3
